US05238955
Preparation of 5-methyl-5-phenethyl-hydantoin
A suspension of 144.1 g (1.5 Mol) ammonium carbonate in 800 ml methanol/water 1:1 mixture is prepared in a 2 liter three-necked flask. At a temperature of 20° C. 43.2 ml (1.1 Mol) hydrocyanic acid are added within 1 minute. 152.8 g (1.0 Mol) 4-phenyl-2-butanol (benzyl acetone) are then added dropwise, leading to a slight exothermic reaction (temperature increase to ca. 30° C.). The white emulsion is maintained at 40° C. for 1 hour and then for 2.5 hours at 60° C. The precipitate is suction filtered, washed twice with 50 ml methanol/H2O 1:1 and dried in a vacuum at 60° C.

reactant | ammonium carbonate | 1.5 Mol, 144.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrocyanic acid | 1.1 Mol, 43.2 ml | C#N | CHN
reactant | 4-phenyl-2-butanol | 1.0 Mol, 152.8 g | C1(=CC=CC=C1)CCC(C)O | C10H14O
reactant | methanol water | 800 ml | CO.O
product | 5-methyl-5-phenethyl-hydantoin | CC1(C(NC(N1)=O)=O)CCC1=CC=CC=C1 | C12H14N2O2
